US03989689
The solution of 264 g of N-(3-carbomethoxypropionyl)-4-chloroanthranilate in 1.8 lt of warm toluene is added dropwise to the hot suspension of 42.6 g of sodium in 900 ml of toluene while stirring and the mixture is refluxed for 5 hours. It is cooled, filtered, the residue taken up in 6 lt of water, the pH of the solution adjusted to 3 with 3N hydrochloric acid, the precipitate formed filtered off, washed with water and recrystallized from acetic acid, to yield the 8-chloro-2,3,4,5-tetrahydro-1-benzazepine-2,5-dione-4-carboxylic acid methyl ester melting at 270°-272°.

reactant | N-(3-carbomethoxypropionyl)-4-chloroanthranilate | 264 g | C(=O)(OC)CCC(=O)NC=1C(C(=O)[O-])=CC=C(C1)Cl
reactant | sodium | 42.6 g | [Na] | Na
solvent | toluene | 900 ml | C1(=CC=CC=C1)C | C7H8
product | 8-chloro-2,3,4,5-tetrahydro-1-benzazepine-2,5-dione-4-carboxylic acid methyl ester | COC(=O)C1CC(NC2=C(C1=O)C=CC(=C2)Cl)=O | C12H10ClNO4
